US04638000
In 10 ml of 5 N hydrogen chloride-ethyl acetate solution is dissolved 0.72 g of tert-butyl 3(R)-[8-tert-butoxycarbonylamino-1(S)-ethoxycarbonyloctyl]amino-4-oxo-2,3,4,5-tetrahydro1,5-benzothiazepine-5-acetate, and the solution is left standing at room temperature for 3.5 hours. Ether (10 ml) is added to the solution and the deposited precipitate is dried under reduced pressure to give 0.50 g of 3(R)-[8-amino-1(S)-ethoxycarbonyloctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid dihydrochloride as a colorless powder.

reactant | tert-butyl 3(R)-[8-tert-butoxycarbonylamino-1(S)-ethoxycarbonyloctyl]amino-4-oxo-2,3,4,5-tetrahydro1,5-benzothiazepine-5-acetate | 0.72 g | C(C)(C)(C)OC(=O)NCCCCCCC[C@@H](C(=O)OCC)N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C31H49N3O7S
reactant | Ether | 10 ml | CCOCC | C4H10O
reactant | hydrogen chloride-ethyl acetate | 5 N, 10 ml | C(C)(=O)OCC.Cl
product | 3(R)-[8-amino-1(S)-ethoxycarbonyloctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid dihydrochloride | 0.50 g | Cl.Cl.NCCCCCCC[C@@H](C(=O)OCC)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2 | InChI=1S/C22H33N3O5S.2ClH/c1-2-30-22(29)16(10-6-4-3-5-9-13-23)24-17-15-31-19-12-8-7-11-18(19)25(21(17)28)14-20(26)27;;/h7-8,11-12,16-17,24H,2-6,9-10,13-15,23H2,1H3,(H,26,27);2*1H/t16-,17-;;/m0../s1
